data/mechanism_extracts/JOC/10.1021_acs.joc.5c00049.json
{"doi": "10.1021_acs.joc.5c00049", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical oxidative dibrominative cyclization of 1,n-enynes using bromide ionic liquid as Br source and 4-iodotoluene as redox mediator to give vinyl/alkyl dibrominated heterocycles.", "mechanism_family": ["mediator_anodic", "radical_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation of bromide (Br-) to bromine radical (Br•), which combines with 4-iodotoluene to form a hypervalent ArIBr2 (aryl iodine I/III) mediator; cathode reduces HFIP/H+ to H2.", "key_intermediates": [{"name": "bromine radical (Br•)", "smiles": "[Br]", "role": "transient"}, {"name": "ArIBr2 hypervalent iodine(III) mediator (from 4-iodotoluene)", "smiles": "Cc1ccc(I(Br)Br)cc1", "role": "reactive"}, {"name": "4-iodotoluene (catalyst resting state)", "smiles": "Cc1ccc(I)cc1", "role": "resting_state"}, {"name": "vinyl bromide / alkyl bromide cyclized product 2a", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, Br- is oxidized to Br•, which reacts with 4-iodotoluene to generate the active ArIBr2 hypervalent iodine(III) species; ArIBr2 engages the enyne to deliver two Br atoms via cyclization and C-Br bond formation, regenerating ArI. At the cathode, protons from HFIP are reduced to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "radical trap control experiments", "smiles": null, "purpose": "radical_trap", "observation": "Reaction inhibited, supporting a free-radical pathway."}, {"name": "cyclic voltammetry of Br- and 4-iodotoluene", "smiles": null, "purpose": "redox_probe", "observation": "Br- oxidizes prior to Br• formation; reduction peak for Br- disappears upon addition of 4-iodotoluene, indicating reaction between Br• and 4-iodotoluene to form ArIBr2."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Recyclability demonstrated: [C2MPr]Br ionic liquid recovered (91%) via liquid-liquid extraction with bromoethane and reused for 5 cycles. Downstream derivatization (Suzuki with ArB(OH)2, SN2 with NaN3 and KI) selectively replaces the alkyl bromide while leaving the vinyl bromide intact, consistent with two electronically distinct C-Br bonds in the product."}
